US07223750B2
3.1. 3-Hydroxy-3-(2-bromopyridin-5-yl)-1-azabicyclo[2.2.2]octane.
27.6 g (0.116 mol) of 2,5-dibromopyridine in 1 000 ml of ethyl ether are introduced into a 2 000 ml three-necked flask, the reaction mixture is cooled to −67° C. and 56 ml (0.140 mol) of a 2.5 M solution of butyllithium in hexane are added dropwise in 10 min. The mixture is stirred at −67° C. for 45 min before adding 14.5 g (0.116 mol) of 1-azabicyclo[2.2.2]octan-3-one in solution in 150 ml of ethyl ether in 45 min, and the mixture is stirred at −67° C. for 3 h. 300 ml of a saturated aqueous solution of ammonium chloride are added followed by 200 ml of a concentrated aqueous solution of sodium hydroxide, the aqueous phase is extracted with chloroform, and the organic phases are dried and concentrated under reduced pressure. The residue is purified by chromatography on a silica gel column, eluting with a 95/5/0.5, then 80/15/1.5, mixture of chloroform, methanol and ammonia.

reactant | 2,5-dibromopyridine | 0.116 mol, 27.6 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | butyllithium | C(CCC)[Li]
reactant | 1-azabicyclo[2.2.2]octan-3-one | 0.116 mol, 14.5 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
product | 3-Hydroxy-3-(2-bromopyridin-5-yl)-1-azabicyclo[2.2.2]octane | OC1(CN2CCC1CC2)C=2C=CC(=NC2)Br | C12H15BrN2O
